* flash ADC 8-bit

* 1-bit ADC
.subckt ad1bit in ref comp out ref_out vcc
B1 ref_out 0 V = v(ref)/2
B2 comp    0 V = (v(in) > v(ref_out)) ? v(vcc) : 0
B3 out     0 V = (v(in) > v(ref_out)) ? v(in)-v(ref_out) : v(in)
.ends

.subckt adc_ideal_8bit in ref vcc ad7 ad6 ad5 ad4 ad3 ad2 ad1 ad0
Xad7  in  ref  ad7  in7  ref7  vcc ad1bit
Xad6  in7  ref7  ad6  in6  ref6  vcc ad1bit
Xad5  in6  ref6  ad5  in5  ref5  vcc ad1bit
Xad4  in5  ref5  ad4  in4  ref4  vcc ad1bit
Xad3  in4  ref4  ad3  in3  ref3  vcc ad1bit
Xad2  in3  ref3  ad2  in2  ref2  vcc ad1bit
Xad1  in2  ref2  ad1  in1  ref1  vcc ad1bit
Xad0  in1  ref1  ad0  in0  ref0  vcc ad1bit
.ends

Vvin vin 0 0 external
Vcc vcc 0 1
Vrange0 range0 0 0 external
Vrange1 range1 0 0 external
Bref ref 0 V = (v(range1) > 0.5 ? 3.3 : (v(range0) > 0.5 ? 2.0 : 1.0))

Xadc vin ref vcc code[7] code[6] code[5] code[4] code[3] code[2] code[1] code[0] adc_ideal_8bit

.tran 1ns 100us

.end
